US07153873B2
1-acetyl-8-benzyloxy-3-cyclohexylamino-2-methyl-imidazo[1,2-a]pyridin-1-ium chloride
Example 7 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-3-benzyloxypyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) acetaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-3-benzyloxypyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | acetaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C)=O | C2H4O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-8-benzyloxy-3-cyclohexylamino-2-methyl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C(=CC=C2)OCC2=CC=CC=C2)NC2CCCCC2)C | InChI=1S/C23H28N3O2.ClH/c1-17-22(24-20-12-7-4-8-13-20)25-15-9-14-21(23(25)26(17)18(2)27)28-16-19-10-5-3-6-11-19;/h3,5-6,9-11,14-15,20,24H,4,7-8,12-13,16H2,1-2H3;1H/q+1;/p-1
